US07858640B2
2-(2,4-dichlorobenzyl)-N-(2-fluoro-5-hydroxyphenyl)-3-oxobutyramide
A mixture of 2-(2,4-dichlorobenzyl)-3-oxobutyric acid ethyl ester (4.6 g) and 3-amino-4-fluorophenol (1.0 g) was heated by microwave irradiation at 120° C. for 20 minutes. The mixture was purified by column chromatography on silica gel, eluting with a mixture of ethyl acetate and pentane (1:19 to 1:1 by volume) to afford title compound, 0.67 g.

reactant | 2-(2,4-dichlorobenzyl)-3-oxobutyric acid ethyl ester | 4.6 g | C(C)OC(C(C(C)=O)CC1=C(C=C(C=C1)Cl)Cl)=O | C13H14Cl2O3
reactant | 3-amino-4-fluorophenol | 1.0 g | NC=1C=C(C=CC1F)O | C6H6FNO
product | 2-(2,4-dichlorobenzyl)-N-(2-fluoro-5-hydroxyphenyl)-3-oxobutyramide | ClC1=C(CC(C(=O)NC2=C(C=CC(=C2)O)F)C(C)=O)C=CC(=C1)Cl | C17H14Cl2FNO3
